US04481268
2-Hydroxy-6-methyl-nicotinic acid (3.6 g, 0.02 m) was heated at 125° for 2 hours with phosphorus oxychloride (10 ml). The reaction mixture was poured onto ice, the solid was collected and crystallised from aqueous ethanol to give colourless fine needles of 2-chloro-6-methylnicotinic acid (72%).

reactant | 2-Hydroxy-6-methyl-nicotinic acid | 3.6 g | OC1=C(C(=O)O)C=CC(=N1)C | C7H7NO3
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-methylnicotinic acid | 72% | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
